US04520193
A 1.6M solution of butyllithium in hexane (10.3 cc) is added, in the course of 10 minutes, to a solution of 2,2,6,6-tetramethylpiperidine (2.33 g) in tetrahydrofuran (15 cc) at 20° C. The mixture is stirred for 20 minutes at 20° C. and then cooled to -70° C. A solution of 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (7.61 g) in tetrahydrofuran (20 cc) is then added in the course of 15 minutes. The mixture is stirred for a further 20 minutes at -70° C. and hexamethylphosphorotriamide (15 cc) is then added in the course of 3 minutes, followed by a solution of methanesulphonyl chloride (4.5 cc) in tetrahydrofuran (10 cc) in the course of 3 minutes. The mixture is stirred for 45 minutes at -70° C., the temperature is then left to rise to 0° C. and the mixture is diluted with ethyl acetate (300 cc). The solution is washed successively with a saturated solution of sodium bicarbonate (100 cc) and distilled water (100 cc), dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is chromatographed on a column of Merck silica gel (0.06-0.20) (150 g) (diameter of the column: 3.7 cm; height: 30 cm). Elution is carried out with a 22/78 (by volume) ethyl acetate/cyclohexane mixture (2.5 liters), 100 cc fractions being collected. Fractions 12 to 20 are concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-mesyloxy-prop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.2 g) in the form of a hard, pale yellow foam.

reactant | butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 2.33 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-acetonyl-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 7.61 g | C(C(=O)C)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O6S
reactant | methanesulphonyl chloride | 4.5 cc | CS(=O)(=O)Cl | CH3ClO2S
solvent | hexane | 10.3 cc | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | hexamethylphosphorotriamide | 15 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-mesyloxy-prop-1-en-1-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)OS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C29H32N2O8S2
